US08134001B2
In a manner similar to the method described in example 4a, 3-bromo-2-fluoro-6-hydroxy-benzaldehyde (3.69 g, 16.8 mmol) reacted with 4-(toluene-4-sulfonyloxy)-piperidine-1-carboxylic acid tert-butyl ester (4 g, 11.2 mmol, ASTATECH) and K2CO3 in N,N-dimethylformamide to give 4-(4-bromo-3-fluoro-2-formyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester as a brown oil (Yield 4.23 g, 94%).

reactant | 3-bromo-2-fluoro-6-hydroxy-benzaldehyde | 16.8 mmol, 3.69 g | BrC=1C(=C(C=O)C(=CC1)O)F | C7H4BrFO2
reactant | 4-(toluene-4-sulfonyloxy)-piperidine-1-carboxylic acid tert-butyl ester | 11.2 mmol, 4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OS(=O)(=O)C1=CC=C(C=C1)C | C17H25NO5S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(4-bromo-3-fluoro-2-formyl-phenoxy)-piperidine-1-carboxylic acid tert-butyl ester | Yield 4.23 g, 94% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=C(C=C1)Br)F)C=O | C17H21BrFNO4
